Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion, weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with hx of HTN, gout
presenting with dyspnea on exertion and anemia.

Ms. ___ was in her usual state of health, attending church
daily and working a part-time job, until approximately 1 month
ago, when she noticed insidious onset of fatigue and dyspnea on
exertion. Her symptoms progressed over the last ___ weeks, to 
the
point where she cannot walk from her office to her car ___
yards), without having to stop and rest (primarily due to
fatigue, but shortness of breath is a component as well). She 
saw
her PCP ___ ___ and was found to have a Hct of 38 from 38.9
___. She was started on iron tablets, which she has been
taking for the last 4 days. 

Over the last week, however, her fatigue and dyspnea on exertion
persisted, and she has spent much of her time in bed. She
presented to ___ on ___, where Hct was 28.5 and 29.6 
on
repeat. Guaiac was negative. Ferritin was 1076, TIBC 302,
transferrin 212, serum iron 27. ESR was 60, TSH was normal, and
Lyme testing was negative. CXR was negative. She was discharged
with instructions to follow-up with her PCP for consideration of
hematology consultation. Full ___ labs below.

She was called by her PCP today when her ferritin returned at
>1000. Iron supplementation was stopped. Given her persistent 
and
worsening symptoms (and reported difficulty obtaining an
outpatient hematology consultation in a timely fashion), she was
referred to the ___. Reportedly, CT chest, A/P, and
TTE have been scheduled by her PCP for early next month.

Ms. ___ reports a dry cough for the last 3 weeks, decreased
appetite, and weight loss of approximately 5 lbs in the last few
weeks, but otherwise denies F/C, CP, abdominal pain, N/V,
diarrhea/constipation, melena/hematochezia, dysuria/hematuria,
rashes, orthopnea/PND, lower extremity edema, arthralgias,
vaginal bleeding, headaches. She traveled to ___ in
early ___ where she received a mosquito bite, but she denies
tick bites. Her last colonoscopy ___ years ago found polyps
(unclear type) and she was recommended to have a f/u this year.
Annual mammograms have been negative (last ___. She has 
never
had a pap smear. 

___:
VS Afeb, HR 96, BP 135/59, RR 14, 100% RA
Exam: pale, otherwise well-appearing, guaiac negative
Labs: Hct 28.6 (from 29.6 on ___, BMP WNL, Retic 1.6, INR 1.1,
LDH 239, UA neg
Imaging: CXR neg
Interventions: none 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
HTN
Gout
Glaucoma
 
Social History:
___
Family History:
Sister died of lung cancer in her ___ (but was a heavy smoker).
No fam hx of rheumatologic conditions or blood clots. 
 
Physical Exam:
Admission exam
VITALS: 99.5, BP 110/61, HR 103, RR 12, 97% RA
GENERAL: NAD, sitting comfortably in bed
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: tachycardic, hyperdynamic precordium, nl S1, S2, II/VI early
SEM, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation
SKIN: No rashes or ulcerations noted
EXT: joints w/o synovitis, ___ warm without edema
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect

Discharge exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 04:10PM BLOOD WBC-8.5 RBC-3.20* Hgb-9.3* Hct-28.6* 
MCV-89 MCH-29.1 MCHC-32.5 RDW-17.1* RDWSD-56.3* Plt ___
___ 07:55AM BLOOD WBC-6.8 RBC-2.70* Hgb-7.9* Hct-23.8* 
MCV-88 MCH-29.3 MCHC-33.2 RDW-17.1* RDWSD-54.9* Plt ___
___ 08:05AM BLOOD WBC-7.5 RBC-2.78* Hgb-8.3* Hct-24.6* 
MCV-89 MCH-29.9 MCHC-33.7 RDW-17.1* RDWSD-55.5* Plt ___

___ 04:10PM BLOOD Glucose-103* UreaN-23* Creat-0.7 Na-136 
K-4.8 Cl-99 HCO3-24 AnGap-13
___ 07:55AM BLOOD Glucose-114* UreaN-18 Creat-0.7 Na-140 
K-4.3 Cl-104 HCO3-23 AnGap-13
___ 08:05AM BLOOD Glucose-153* UreaN-17 Creat-0.7 Na-138 
K-4.0 Cl-103 HCO3-23 AnGap-12
___ 04:10PM BLOOD Hapto-283*
___ 10:06PM BLOOD D-Dimer-729*
___ 07:35AM BLOOD calTIBC-268 ___ Ferritn-1436* 
TRF-206
___ 07:00AM BLOOD VitB12-583
___ 07:35AM BLOOD CRP-68.1*
___ 08:35AM BLOOD PEP-ABNORMAL B IgG-655* IgA-195 IgM-42 
IFE-MONOCLONAL
___ 07:55AM BLOOD FreeKap-23.4* FreeLam-32.7* Fr K/L-0.72

CT chest ___
IMPRESSION:  
  
Two 6 mm solid pulmonary nodules, one is perifissural in the 
left upper lobe 
and the second in the left lower lobe.  According to current 
___ 
___ guidelines, a follow-up CT in ___ months is recommended. 

  
Small hiatus hernia. 
  
RECOMMENDATION(S):   For incidentally detected multiple solid 
pulmonary 
nodules measuring 6 to 8mm, a CT follow-up in 3 to 6 months is 
recommended in 
a low-risk patient, with an optional CT follow-up in 18 to 24 
months. In a 
high-risk patient, both a CT follow-up in 3 to 6 months and in 
18 to 24 months 
is recommended. 

CT A/P ___
IMPRESSION: 
  
  
1. There is no evidence of masses, splenomegaly or other 
findings that could 
explain the anemia. 
2. 3 x 3 cm left ovarian cyst which would warrant a ___ year 
history follow-up. 
  
RECOMMENDATION(S):  ___ year follow up for left ovarian cyst by 
pelvic 
ultrasound 

 
Brief Hospital Course:
Ms. ___ is a ___ female with hx of
HTN, gout presenting with dyspnea on exertion and normocytic
anemia.

ACUTE/ACTIVE PROBLEMS:
# Fatigue
# Dyspnea on exertion: Likely secondary to normocytic anemia as
below and the underlying process explaining that anemia,
concerning for an undiagnosed malignancy. CXR was without 
evidence of
pneumonia or pulmonary edema. No e/o R-sided heart failure
suggestive of pulmonary HTN, and no hx of COPD or asthma. Her CT 
chest was large unremarkable aside from two 6 mm pulmonary 
nodules that will require repeat CT in ___ months. 

# Normocytic anemia: Unclear etiology, but most concerning for
anemia of chronic disease in the setting of an 
as-yet-undiagnosed
malignancy or inflammatory disorder (less likely chronic
infection) given hyperferritinemia ~10x ULN and elevated ESR and 
CRP,
possibly with concurrent iron-deficiency anemia given low
transferrin saturation. There was no evidence of active bleeding 
given
negative guaiac, and no obvious evidence of hemolysis
(given normal LDH, normal automated smear without schistocytes 
or
spherocytes, haptoglobin WNL, bilirubin pending). No e/o DIC or
TTP given absence of schistocytes and normal INR, respectively.
Isolated anemia in the absence of leukopenia or thrombocytopenia
makes a primary/infiltrative bone marrow process or a tick-bone
etiology (lyme/babesia/anaplasma) less likely - titers sent at 
___ and reportedly negative. No e/o hypothyroidism when ___ 
checked earlier this month, and renal
function WNL. No obvious drug culprits (allopurinol associated
with anemia in <1% patients). Hematology was consulted - did not 
recommend bone marrow biopsy however felt patient should have 
continued monitoring as an outpatient. SPEP/UPEP pending at time 
of discharge, light chains pending. CT A/P also obtained and 
unrevealing for source of anemia. After several days of 
admission, her Hgb stabilized and she was discharged with close 
follow up. 

CHRONIC/STABLE PROBLEMS:
# HTN: stable.
- continued lisinopril 10mg daily

# Gout: stable, without e/o flare.
- continued allopurinol ___ daily

# Glaucoma: stable.
- continued home latanoprost and timolol drops

Transitional care issues:
Pulmonary nodules - needs repeat CT in ___ months
Ovarian cyst - should have vaginal US as outpatient

Greater than 30 minutes were spent providing and coordinating 
care for this patient on the day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
5. Aspirin 325 mg PO DAILY 
6. Ferrous GLUCONATE 324 mg PO DAILY 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Aspirin 325 mg PO DAILY  
3.  Ferrous GLUCONATE 324 mg PO DAILY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Lisinopril 10 mg PO DAILY  
6.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anemia
Elevated inflammatory markers

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted for shortness of breath with exertion and 
anemia. ___ blood counts were low however stabilized. CT scans 
were unrevealing of source, blood tests were also unrevealing. 
___ were seen by the hematology service and they would like ___ 
to follow up as an outpatient. There were several incidental 
findings on the CT scans which your PCP should monitor including 
2 small pulmonary nodules and an ovarian cyst. 

Thank ___ for allowing us to participate in your care
Your ___ team
 
Followup Instructions:
___